US07601722B2
In an analogous manner as general procedure II, step 1, a solution of 1-(2-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.2 g, 0.77 mmol) in tetrahydrofuran (10 mL) was cooled to 0° C., treated with triphenylphosphine (0.3 g, 1.2 mmol), tert-Butyl 4-(2-hydroxyethyl)piperazine-1-carboxylate (0.36 g, 1.54 mmol) were added followed by diisopropylazodicarboxylate (0.23 mL, 1.2 mmol to provide tert-butyl 4-{2-[3-(2-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethyl}piperazine-1-carboxylate (0.25 g, 69%) as a white foam. HPLC purity 100.0% at 210-370 nm, 10.7 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. Ph=3.5/ACN+MeOH) for 10 min, hold 4 min. HRMS: calcd for C24H32N4O4S+H+, 473.22170; found (ESI, [M+H]+Obs'd), 473.2229;

reactant | 1-(2-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.77 mmol, 0.2 g | CC1=C(C=CC=C1)N1S(NC2=C1C=CC=C2)(=O)=O | C13H12N2O2S
reactant | triphenylphosphine | 1.2 mmol, 0.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-Butyl 4-(2-hydroxyethyl)piperazine-1-carboxylate | 1.54 mmol, 0.36 g | OCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O3
reactant | diisopropylazodicarboxylate | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-{2-[3-(2-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethyl}piperazine-1-carboxylate | 0.25 g, 69% | CC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCN2CCN(CC2)C(=O)OC(C)(C)C)(=O)=O | C24H32N4O4S
